US05110956
2-(1,3-Benzodioxol-5-yl)propene
14.52 g of 2-(1,3-benzodioxol-5-yl)-2-propanol was dissolved in 200 ml of benzene, followed by the addition of a catalytic amount of p-toluenesulfonic acid monohydrate. The obtained mixture was heated under reflux in a short-neck Kieldahl flask fitted with a Dean-Stark reflux condenser for 2.5 hours. The reaction mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt successively, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to obtain 14.33 g of the title compound as an oil.

reactant | 2-(1,3-benzodioxol-5-yl)-2-propanol | 14.52 g | O1COC2=C1C=CC(=C2)C(C)(C)O | C10H12O3
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(1,3-Benzodioxol-5-yl)propene | 14.33 g | O1COC2=C1C=CC(=C2)C(=C)C | C10H10O2
